US06348474B1
Ethyl (E)-2-(4-phenylphenyl)ethenylpyridine-4-carboxylate
(E)-2-(4-Phenylphenyl)ethenylpyridine-4-carboxylic acid (3.60 g) and a mixture of concentrated sulfuric acid/ethanol (9:1) were refluxed under heating for 2 hr, and neutralized under ice cooling. The reaction mixture was partitioned between dichloromethane and water, and the aqueous layer was extracted once with dichloromethane. The organic layers were combined, dried over magnesium sulfite and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=9/1-4/1) to give the objective compound (3.14 g) as a white solid.

reactant | (E)-2-(4-Phenylphenyl)ethenylpyridine-4-carboxylic acid | 3.60 g | C1(=CC=CC=C1)C1=CC=C(C=C1)/C=C/C1=NC=CC(=C1)C(=O)O | C20H15NO2
reactant | sulfuric acid ethanol | S(O)(O)(=O)=O.C(C)O
product | Ethyl (E)-2-(4-phenylphenyl)ethenylpyridine-4-carboxylate | 3.14 g | C1(=CC=CC=C1)C1=CC=C(C=C1)/C=C/C1=NC=CC(=C1)C(=O)OCC | C22H19NO2
